US05158617
CH3C(CF3)(CF2H)CF2Cl (HCFC-3571mps) may be prepared as follows. Commercially available 1,1-dichloropropene may be reacted with commercially available trifluoromethyl iodide to form 1,1-dichloro-1-iodo-2-trifluoromethylpropane which may be dehydrohalogenated to form 1,1-dichloro-2-trifluoromethyl-1-propene. The 1,1-dichloro-2-trifluoromethyl-1-propene may be hydrogenated to form 1,1-dichloro-2-trifluoromethylpropane which may be fluorinated to form l,1-difluoro-2-trifluoromethylpropane. The 1,1-difluoro-2-trifluoromethylpropane may be dehydrogenated to form 1,1-difluoro-2-trifluoromethy-1-propene which may be reacted with commercially available trifluoromethyl iodide to form 1,1-difluoro-1-iodo-2,2-trifluoromethylpropane. The 1,1-difluoro-1-iodo-2,2-trifluoromethylpropane may be chlorinated to form 1-chloro-1,1-difluoro-2,2-trifluoromethylpropane which may be hydrogenated to form 1-chloro-1,1-difluoro-2-difluoromethyl-2-trifluoromethylpropane.

reactant | CH3C(CF3)(CF2H)CF2Cl | CC(C(F)(F)F)(C(F)F)C(F)(F)Cl | C5H4ClF7
reactant | 1,1-dichloropropene | ClC(=CC)Cl | C3H4Cl2
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
product | 1,1-dichloro-1-iodo-2-trifluoromethylpropane | ClC(C(C)C(F)(F)F)(I)Cl | C4H4Cl2F3I
